US08975400B2
4-((6-chloropyridin-3-yl)oxy)-3-fluorobenzaldehyde
The title compound was prepared by a procedure similar to that described for D4 starting from 3,4-difluorobenzaldehyde and 6-chloropyridin-3-ol.

reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | 6-chloropyridin-3-ol | ClC1=CC=C(C=N1)O | C5H4ClNO
product | 4-((6-chloropyridin-3-yl)oxy)-3-fluorobenzaldehyde | ClC1=CC=C(C=N1)OC1=C(C=C(C=O)C=C1)F | C12H7ClFNO2
